US07405233B2
A solution of methyl 3-aminobenzoate (4.00 g, 26.5 mmol), methyl bromoacetate (4.05 g, 26.5 mmol) and sodium acetate (1.1 eq.) in methanol (30 mL) was stirred at ambient temperature for 48 h. The resulting white precipitate was collected by filtration, washed with a small amount of methanol, and dried under vacuum to afford methyl-N-(3-carbomethoxyphenyl)glycine (2.69 g, 12.1 mmol, 45%). 1H NMR (CDCl3, 300 MHz): δ 7.41 (1H, d, J=8 Hz), 7.28-7.20 (2H, m), 6.79 (1H, d, J=8 Hz), 4.43 (1H, br), 3.97 (2H, s), 3.90 (3H, s), 3.80 (3H, s).

reactant | methyl 3-aminobenzoate | 26.5 mmol, 4.00 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | methyl bromoacetate | 26.5 mmol, 4.05 g | BrCC(=O)OC | C3H5BrO2
reactant | sodium acetate | 1.1 eq. | C(C)(=O)[O-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | methyl-N-(3-carbomethoxyphenyl)glycine | 12.1 mmol, 2.69 g, 45% | CN(CC(=O)O)C1=CC(=CC=C1)C(=O)OC | C11H13NO4
